US03997557
4.41 g (0.05 mole) of dimethylaminoethylamine are added dropwise to a stirred suspension of 12.32 g (0.05 mole) of 2-(p-methoxyphenacyl)cyclohexanone in glacial acetic acid. After refluxing overnight, ice and water are added, and the cloudy mixture is washed with ether. The aqueous solution is basified with 10% sodium carbonate and extracted with ether. Removal of the ether after drying over sodium sulfate gives a light brown oil which solidifies on cooling. The resulting solid is recrystallized from methanol to give 1-(2-dimethylaminoethyl)-2(p-methoxyphenyl)-4,5,6,7-tetrahydroindole as white needles, m.p. 81°-82° C.

reactant | dimethylaminoethylamine | 0.05 mole, 4.41 g | CN(C)CCN | C4H12N2
reactant | 2-(p-methoxyphenacyl)cyclohexanone | 0.05 mole, 12.32 g | COC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C15H18O3
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminoethyl)-2(p-methoxyphenyl)-4,5,6,7-tetrahydroindole | CN(CCN1C(=CC=2CCCCC12)C1=CC=C(C=C1)OC)C | C19H26N2O
